US04732982
1,2-Dihydro-5-[1-(Methoxyimino)ethyl]-6-Methyl-2-oxo-3-pyridinecarbonitrile
A mixture of 5-acetyl-6-methyl-2-(1H)pyridinone (1.76 g, 0.010 mol), methoxyamine hydrochloride (0.90 g, 0.107 mol) and pyridine (5.0 ml) were heated and stirred in EtOH (150 ml) at reflux. The initially heterogeneous mixture cleared as everything went into solution. At the end of 2 hours a solid precipitated. The reaction mixture was allowed to cool to room temperature and the solid was collected by filtration. Recrystallization (EtOH) gave 0.70 g (35%) m.pt. 275°-285° C.

reactant | 5-acetyl-6-methyl-2-(1H)pyridinone | 0.010 mol, 1.76 g | C(C)(=O)C=1C=CC(NC1C)=O | C8H9NO2
reactant | methoxyamine hydrochloride | 0.107 mol, 0.90 g | Cl.CON
reactant | pyridine | 5.0 ml | N1=CC=CC=C1 | C5H5N
solvent | EtOH | 150 ml | CCO | C2H6O
product | 1,2-Dihydro-5-[1-(Methoxyimino)ethyl]-6-Methyl-2-oxo-3-pyridinecarbonitrile | CON=C(C)C=1C=C(C(NC1C)=O)C#N | C10H11N3O2
